US07528262B2
1-[4-(3-Chloropropoxy)phenyl]-2-methyl-1H-indole.
4-(2-Methylindol-1-yl)phenol (0.36 mmol) was heated at 70° C. in 2-butanone (3 mL) with 1-bromo-3-chloropropane (0.107 mL, 1.08 mmol) and potassium carbonate (0.15 g, 1.08 mmol) overnight. The solvent was evaporated. The resulting residue was diluted with ethyl acetate and washed with saturated ammonium chloride solution. The aqueous layer was back-extracted with ethyl acetate. The organic extracts were dried over MgSO4 and concentrated. SiO2 chromatography with 5-20% ethyl acetate/hexanes gave the desired product as a colorless oil, 60 mg (56% yield, 2 steps). LC-MS (C18H18ClNO calc'd 299) m/z 300, 302 (M+H).

reactant | 4-(2-Methylindol-1-yl)phenol | 0.36 mmol | CC=1N(C2=CC=CC=C2C1)C1=CC=C(C=C1)O | C15H13NO
reactant | 1-bromo-3-chloropropane | 1.08 mmol, 0.107 mL | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 1.08 mmol, 0.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 3 mL | CC(CC)=O | C4H8O
product | 1-[4-(3-Chloropropoxy)phenyl]-2-methyl-1H-indole | 56% yield | ClCCCOC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C | C18H18ClNO
